US07465815B2
A solution of 1-bromo-2-isopropylbenzene (1.20 g, 6.03 mmol) in THF (5 mL) was added dropwise under an argon atmosphere to a mixture of magnesium (147 mg, 6.03 mmol) and a catalytic amount of iodine, and the mixture was stirred at 70° C. for 30 minutes. To the reaction solution was added dropwise a solution of 3,3-dimethyl-N-(2,2,6,7-tetramethyl-3-oxo-2,3-dihydro-1-benzofuran-5-yl)butanamide (350 mg, 1.15 mmol) obtained in Reference Example 65 in THF (3 mL), and the mixture was refluxed with heating for 12 hours. The reaction solution was added to ice and the product was extracted with ethyl acetate. The organic layer was washed with water and saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (ethyl acetate:hexane=1:2) to obtain 79 mg (yield: 16%) of N-(3-hydroxy-3-(3-isopropylphenyl)-2,2,6,7-tetramethyl-2,3-dihydro-1-benzofuran-5-yl)-3,3-dimethylbutanamide. To a solution of the compound (79 mg, 0.19 mmol) in trifluoroacetic acid (1 mL) was added with ice-cooling triethylsilane (44 mg, 0.38 mmol), and the mixture was stirred at room temperature for 1 hour. The reaction solution was added to water and the product was extracted with ethyl acetate. The organic layer was washed with an aqueous 1 N sodium hydroxide solution, water and saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate:hexane=1:2) to obtain 39 mg (yield: 51%) of the title compound. Yield: 51%. Melting point: 188-189° C. (ethyl acetate-hexane).

reactant | 1-bromo-2-isopropylbenzene | 6.03 mmol, 1.20 g | BrC1=C(C=CC=C1)C(C)C | C9H11Br
reactant | magnesium | 6.03 mmol, 147 mg | [Mg] | Mg
reactant | iodine | II | I2
reactant | 3,3-dimethyl-N-(2,2,6,7-tetramethyl-3-oxo-2,3-dihydro-1-benzofuran-5-yl)butanamide | 1.15 mmol, 350 mg | CC(CC(=O)NC=1C(=C(C2=C(C(C(O2)(C)C)=O)C1)C)C)(C)C | C18H25NO3
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | N-(3-hydroxy-3-(3-isopropylphenyl)-2,2,6,7-tetramethyl-2,3-dihydro-1-benzofuran-5-yl)-3,3-dimethylbutanamide | 79 mg, yield: 16% | OC1(C(OC2=C1C=C(C(=C2C)C)NC(CC(C)(C)C)=O)(C)C)C2=CC(=CC=C2)C(C)C | C27H37NO3
